.title KiCad schematic
.control
* Run a transient analysis (Time Step = 10ns, Total Time = 5ms)
tran 10n 5m

* Make the plot window look clean (White background, Black grid/text)
set color0=white
set color1=black

* Plot the Input vs Output Voltage
plot v(Vin) v(Vout)

* Plot the Switching Node (to see the 600kHz PWM action)
plot v(SW)

.endc
C7 Vout 0 22u
C2 Vout 0 0.1u
R5 Vout Vfb 750k
R6 Vfb 0 53.6k
C6 Vout 0 22u
C10 0 Net-_IC1-SS_ 22n
V1 Vin 0 DC 3.3 
C4 Net-_IC1-VDD_ 0 4.7u
R1 V_Mode Net-_IC1-VDD_ 130k
R2 V_Mode 0 20k
IC1 __IC1
C3 Net-_IC1-COMP_ Net-_C3-Pad2_ 6.8n
R3 Net-_C3-Pad2_ 0 6.8k
C12 0 Vin 22u
C11 0 Vin 22u
L1 Net-_IC1-SW_ Vin 3.3u
C9 Net-_IC1-SW_ Net-_IC1-BST_ 0.1u
R4 Net-_IC1-EN_ Vin 30k
C8 Vout 0 22u
C5 0 Vin 22u
.end
